US07414060B2
Step 1: 6-Methyl-3-(5-methyl-pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester:
The Pd catalyzed coupling of 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester and 3-Amino-5-methylpyridine was performed in accordance with the general method of Example 78, step 3 to yield the title compound as a light brown solid, MS (ISP): m/e=272.3 (M+H+).

reactant | 3-Bromo-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1Br)C | C9H10BrNO2
reactant | 3-Amino-5-methylpyridine | NC=1C=NC=C(C1)C | C6H8N2
catalyst | Pd | [Pd] | Pd
product | 6-Methyl-3-(5-methyl-pyridin-3-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)C)C | C15H17N3O2
